US08067362B2
Step 1: 5-(14-tert-Butoxycarbonyltetradecyloxy)isophthalic acid dimethyl ester
5-Hydroxy-isophthalic acid dimethyl ester (420 mg, 2 mmol), 15-bromo-pentadecanoic acid tert-butyl ester (755 mg, 2 mmol) and K2CO3 (415 mg, 3 mmol) were placed in a flask with acetonitrile (25 ml) and refluxed under N2. The reaction was followed by TLC (4:1 heptane/AcOEt), which indicated reaction completion after 6 h. The sample was concentrated to near dryness. AcOEt (50 ml) and water (25 ml) were added to the residue. The phases were separated and the organic phase was washed with water and brine (25 ml each), dried over MgSO4 and concentrated to yield a white crystalline solid (1.0 g, 100%).

reactant | 5-Hydroxy-isophthalic acid dimethyl ester | 2 mmol, 420 mg | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | 15-bromo-pentadecanoic acid tert-butyl ester | 2 mmol, 755 mg | C(C)(C)(C)OC(CCCCCCCCCCCCCCBr)=O | C19H37BrO2
reactant | K2CO3 | 3 mmol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | heptane AcOEt | CCCCCCC.CCOC(=O)C
product | 5-(14-tert-Butoxycarbonyltetradecyloxy)isophthalic acid dimethyl ester | 1.0 g, 100% | COC(C1=CC(C(=O)OC)=CC(=C1)OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C29H46O7
